US08426437B2
1.9 mL (6 mmol) of titanium isopropoxide and 1 g (5 mmol) of (S)-1-tert-butoxycarbonyl-pyrrolidine-2-carbaldehyde are added to a solution of 886 mg (15 mmol) of isopropylamine in 10 mL of anhydrous methanol. The solution is stirred for 5 hours at room temperature then 227 mg (6 mmol) of sodium borohydride is added. Stirring is continued for a further 2 hours then 2 mL of water is added. The reaction mixture is filtered then the solvents are evaporated. Water is added and the compound is extracted with diethyl ether. The organic phases are dried over magnesium sulfate, filtered and evaporated to give 1.05 g (86%) of (S)-1-tert-butoxycarbonyl-2-isopropylaminomethyl-pyrrolidine in the form of a colourless oil.

reactant | (S)-1-tert-butoxycarbonyl-pyrrolidine-2-carbaldehyde | 5 mmol, 1 g | C(C)(C)(C)OC(=O)N1[C@@H](CCC1)C=O | C10H17NO3
reactant | isopropylamine | 15 mmol, 886 mg | C(C)(C)N | C3H9N
reactant | sodium borohydride | 6 mmol, 227 mg | [BH4-].[Na+]
reactant | water | 2 mL | O | H2O
solvent | methanol | 10 mL | CO | CH4O
catalyst | titanium isopropoxide | 6 mmol, 1.9 mL | CC([O-])C.[Ti+4].CC([O-])C.CC([O-])C.CC([O-])C
product | (S)-1-tert-butoxycarbonyl-2-isopropylaminomethyl-pyrrolidine | 1.05 g, 86% | C(C)(C)(C)OC(=O)N1[C@@H](CCC1)CNC(C)C | C13H26N2O2
